US07635715B2
Step D: Preparation of 2-(5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroisoquinoline-6-carboxamido)acetic acid
A mixture of tert-butyl 2-(5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroisoquinoline-6-carboxamido)acetate (0.02 g, 0.06 mmol) in 2 mL TFA was stirred at room temperature for 1 hour, M+1=291. The mixture was diluted with 10 mL water. The solution was concentrated and dried to give 0.018 g of the product as a pale yellow solid. MS m/e: (M+H)+ 291.

reactant | tert-butyl 2-(5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroisoquinoline-6-carboxamido)acetate | 0.06 mmol, 0.02 g | OC=1C=2C=CN=CC2C(C(C1C(=O)NCC(=O)OC(C)(C)C)=O)(C)C | C18H22N2O5
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 10 mL | O | H2O
product | 2-(5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroisoquinoline-6-carboxamido)acetic acid | 0.018 g | OC=1C=2C=CN=CC2C(C(C1C(=O)NCC(=O)O)=O)(C)C | C14H14N2O5
